Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Codeine / Peanut
 
Attending: ___
 
Chief Complaint:
Cough
 
Major Surgical or Invasive Procedure:
Right thoracentesis with drainage of 5 cc purulent fluid 
___

 
History of Present Illness:
Mr. ___ is an ___ year old male with history of atrial 
fibrillation on warfarin, esophageal diverticulum/dysphagia, and 
blindness here with chronic non-productive cough and new 
right-sided pleuritic chest pain developing ___ the last 48 
hours. His pain is characterized by a ___ stabbing sensation at 
worst (now ___ relived with analgesic medications but worsened 
with inspiration or movement. His pain radiates to his 
back/shouders. He has had similar pain ___ the past, most 
recently ___ ___, and has received diagnoses of pneumonia. He 
denies subjective fevers at home, fatigue, hoarseness, malaise, 
lymphadenopathy, diaphoresis, left-sided chest pain, 
lightheadedness, nausea, vomiting, or other somatic complaints.

Per OMR, he was admitted on ___ (and discharged same day) 
with a diagnosis of mutifocal pneumonia after presenting with 
left-sided pleuritic chest pain; discharged with prescription 
for 5 days of levofloxacin and recommendations to have repeat 
CXR to evaluate for resolution of pneumonia. Presented later to 
PCP ___ ___ with non-productive cough but without other 
symptoms/signs of pneumonia - diagnosed with latent pleural 
irritation secondary to bronchitis. He has not had imaging ___ 
the interval from ___ until now.

___ the ED, initial VS were 99.0, 83, 156/81, 16, 100%. Initial 
labs demonstrated leukocytosis with 14,600 WBCs, of which 88% 
were PMNs. A CXR revealed bibasilar airspace opacities and 
possible left pleural effusion. His d-dimer was 882. A 
subsequent CTA chest demonstrated possible right-sided empyema 
and LLL, RML multifocal pneumonia. He received 1g ceftriaxone 
and 500mg azithromycin initially at 2330 on ___. He required 
an extended stay ___ the ED due to bed availability and was then 
managed by ___, who added 150mg clindamcyin at 0140 on ___ 
due to empyema presence. He was started on some of his home 
medications, including warfarin 5mg daily, atenolol, and 
mirtazapine. He required acetaminophen, tramadol, and oxycodone 
for control of pleuritic pain. IP was consulted, who recommended 
discontinuing warfarin (INR was 2.0) and considering FFP for 
reversal of anticoagulation pending possible thoracentesis 
and/or chest tube placement. He remained afebrile during his 
time ___ the ED.

ROS:
(+) Per HPI
(-) Denies fatigue, subjective fever, fatigue, weight change, 
headache, tinnitus, dysphagia, odynophagia, hoarseness, 
palpitations, dyspnea, paroxysmal nocturnal dyspnea, orthopnea, 
abdominal pain, nausea, vomiting, diarrhea, melena, 
hematochezia, lymphadenopathy, dysuria, new bruising, new 
bleeding, rash, or other somatic complaints.
 
Past Medical History:
- atrial fibrillation on warfarin
- benign prostatic hypertrophy previously with chronic 
indwelling Foley now s/p TURP
- esophageal diverticulum leading to dysphagia
- HTN
- blindness secondary to macular degeneration on left, retinal 
detachment on right
- gait disorder
- kyphoscoliosis
- left inguinal herniorrhaphy ___
- neuropathy
 
Social History:
___
Family History:
Father with history of MI

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS on arrival to floor: 97.8, 146/62, 89, 18, 0.99 on 3L NC
 Gen: NAD, AAOx3, comfortably lying ___ bed and conversant
 HEENT: NC/AT, right pupil clouded, yellowed and orbit sunken ___ 
socket, left pupil cloudy; sclera anicteric; oropharynx clear 
without exudate or erythema, mucosa moist but slightly dry; no 
LAD
 CV: irregularly irregular, no m/r/g
 Pulm: difficult to assess as patient moving small volumes of 
air, but lung sounds decreased at left posterior bases 
associated with left-sided dullness to percussion and egophany
 Abd: BS+, soft, NT, ND, no HSM, no palpable masses, ___ 
negative
 MSK: dorsalis pedis and radial pulses 2+ bilaterally, no c/c/e
 Neuro: oriented x3, CNII-XII intact, moving all extremities, 
sensation grossly intact

DISCHARGE PHYSICAL EXAM:
Unchanged.
 
Pertinent Results:
ADMISSION LABS:
___ 04:45PM BLOOD WBC-14.6* RBC-4.38* Hgb-13.7* Hct-41.7 
MCV-95 MCH-31.2 MCHC-32.7 RDW-13.7 Plt ___
___ 04:45PM BLOOD Neuts-88.0* Lymphs-5.5* Monos-5.4 Eos-0.9 
Baso-0.2
___ 03:09AM BLOOD ___
___ 04:45PM BLOOD Glucose-122* UreaN-15 Creat-0.8 Na-141 
K-5.0 Cl-103 HCO3-29 AnGap-14
___ 04:45PM BLOOD ALT-11 AST-16 AlkPhos-120 TotBili-0.7
___ 04:45PM BLOOD Lipase-17
___ 04:45PM BLOOD Albumin-3.3*
___ 08:55AM BLOOD Calcium-8.5 Phos-2.6* Mg-2.1
___ 04:58PM BLOOD Lactate-1.7

DISCHARGE LABS:
___ 05:22AM BLOOD WBC-14.3* RBC-4.17* Hgb-12.7* Hct-40.1 
MCV-96 MCH-30.5 MCHC-31.7 RDW-13.6 Plt ___
___ 05:22AM BLOOD Neuts-87.7* Lymphs-5.5* Monos-6.1 Eos-0.7 
Baso-0.1
___ 05:22AM BLOOD ___

MICROBIOLOGY:
___ 10:15 am FLUID,OTHER      RT LUNG EMPYEMA. 

   GRAM STAIN (Final ___: 
      3+  ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      3+  ___ per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS, CHAINS, AND 
CLUSTERS. 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE ROD(S). 
      SMEAR REVIEWED; RESULTS CONFIRMED. 
      Reported to and read back by ___ ___ ___ 240PM. 

   FLUID CULTURE (Preliminary): 
      STREPTOCOCCUS ANGINOSUS (___) GROUP.    MODERATE 
GROWTH. 

   ANAEROBIC CULTURE (Preliminary):    NO ANAEROBES ISOLATED. 

Blood culture ___ x 2: no growth

STUDIES:
- Video swallow study ___: IMPRESSION: Penetration with 
nectar thick liquid and aspiration with thin consistency barium.

- CT guided thoracentesis ___: IMPRESSION: CT-guided 
empyema aspiration yielding 6 cc of purulent tan pus. 
Microbiology and cytology are pending.

- CTA CHEST W AND W/O CONTRAST ___:
IMPRESSION:
1.  No evidence of pulmonary embolism or acute aortic pathology. 

2.  Multifocal pulmonary opacities, most confluent ___ the left 
lower lobe and ___ the right middle lobe, compatible with 
multifocal pneumonia.  Enhancing small fluid collection ___ the 
right mid lung pleural space concerning for empyema. 
3.  Moderate sized right pleural effusion. 

- CTA CHEST W AND W/O CONTRAST ___:
IMPRESSION: 
1.  Multiple bilateral nodular opacities, with the most 
confluence at the left base, consistent with multifocal 
pneumonia.  A dedicated chest CT after resolution of symptoms 
can be considered to evaluate for nodules. 
2.  Stable left adrenal nodule, likely an adenoma.  
3.  No evidence of a pulmonary embolism or acute aortic injury. 

 
Brief Hospital Course:
Mr. ___ was admitted to ___ on ___ for workup and 
treatment of multifocal pneumonia. His hospital course is as 
follows:

1) Multifocal right middle lobe and left lower lobe pneumonia 
with right parapneumonic effusion: suspicion of empyema ___ 
setting of esophageal diverticulum and dysphagia. History of 
multifocal pneumonia ___ ___, similar clinically. Patient 
remained afebrile, with stable vital signs throughout admission. 
Initially the patient was started on ceftriaxone, azithromycin, 
and clindamycin. Given likely aspiration pneumonia, he underwent 
video swallow study as above. Per speech pathology 
recommendations, diet should be nectar thickened liquids, soft 
solids; POs while upright w/ oral care before meals.  He 
underwent CT-guided thoracentesis and drainage of 5 cc purulent 
fluid at ___ location on ___. Initial gram stain of pleural 
fluid growing 3+ GPCs and 1+ GPRs.  Patient treated with 
clindamycin and levofloxacin per ID recs, which will continue 
for four weeks.  He will require follow-up ___ ___ clinic to 
determine resolution of pneumonia and determination of 
antibiotic duration.  Patient's white blood cell count was 
rising on day of discharge, but with no change ___ clinical 
status.  Patient should have a CBC checked on ___ to follow up 
this finding.

2) Atrial fibrillation/anticoagulation - CHADS2 score equal to 
2. Taking 4 mg daily of warfarin at home. Rate controlled with 
atenolol. INR was mildly prolonged on arrival, suggestive of 
inhibition of metabolism by antibiotics. Temporarily 
discontinued warfarin ___, then restarted 4mg 
daily on ___ after thoracentesis completed. Continued atenolol 
daily. INR on discharge equal to 1.7.

3) Hypertension - Well-controlled. Continued home atenolol.

4) Benign prostatic hypertrophy previously with chronic 
indwelling Foley now s/p TURP - No issues throughout admission. 
Voiding regularly.

5) Blindness secondary to macular degeneration on left, retinal 
detachment on right - Chronic, stable. Redirected as necessary. 
Continued home levobunolol.

TRANSITIONAL ISSUES:
- Please check kidney function and CBC on ___
- Small 5-mm nodule ___ the right lobe of the thyroid may need 
dedicated imaging, such as ultrasound.
- ___ recs: okay for rehab or home w 24hr assistance and home ___
- Will require follow-up with PCP ___ ___
- Will require follow-up ___ ___ clinic to determine resolution of 
pneumonia and determination of antibiotic duration.
- Will need CT scan ___ weeks after discharge to follow-up 
resolution of pneumonia.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 25 mg PO DAILY 
Hold for HR<60 or sBP<100. 
2. Levobunolol 0.25% 1 DROP LEFT EYE DAILY 
3. Mirtazapine 30 mg PO HS 
4. Warfarin 4 mg PO DAILY16 
5. Docusate Sodium 100 mg PO BID 
6. DiphenhydrAMINE 25 mg PO HS:PRN insomnia 
7. Acetaminophen 500 mg PO Q6H:PRN pain 

 
Discharge Medications:
1. Acetaminophen 500 mg PO Q6H:PRN pain 
2. Atenolol 25 mg PO DAILY 
Hold for HR<60 or sBP<100. 
3. Docusate Sodium 100 mg PO BID 
4. Levobunolol 0.25% 1 DROP LEFT EYE DAILY 
5. Mirtazapine 30 mg PO HS 
6. DiphenhydrAMINE 25 mg PO HS:PRN insomnia 
7. Warfarin 4 mg PO DAILY16 
8. Clindamycin 300 mg PO Q6H 
RX *clindamycin HCl [Cleocin] 300 mg 1 capsule(s) by mouth every 
six (6) hours Disp #*120 Capsule Refills:*0
9. Levofloxacin 500 mg PO DAILY 
RX *levofloxacin [Levaquin] 500 mg 1 tablet(s) by mouth daily 
Disp #*30 Tablet Refills:*0

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY:
- multifocal pneumonia with complicated parapneumonic effusion, 
empyema
SECONDARY:
- dysphagia secondary to esophageal diverticulum

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

Thank you for choosing ___ for your medical care. You were 
admitted with pain ___ your chest caused by a pneumonia. Your 
pneumonia is probably caused by swallowing dysfunction.

You are now ready for discharge. Please take all your 
medications as instructed by your doctors. Please keep all of 
your appointments with your doctors, and bring a copy of your 
medications to these visits. Upon discharge, please call your 
PCP, ___, at ___ or return to the ED if you 
experience any of the following: loss of conciousness, fever, 
chest pain, trouble breathing, coughing up blood or pus, 
palpitations, lightheadedness, or any other symptoms that 
concern you.

It is important that you take precautions while eating to 
minimize the risk of choking or inhaling small bits of food. You 
must sit fully upright while eating and take only small sips of 
liquids. Swallow twice for each bite and sip and clear your 
throat after each swallow. Clean and rinse your mouth before 
each meal to decrease the amount of bacteria ___ your throat. You 
should remain seated upright for one hour after meals.
 
Followup Instructions:
___